US08426447B2
A 10-20 mL microwave vial was charged with racemic-N-tert-butyl-2′-bromo-7′-chloro-spiro[1,3-thiazole-4,9′-xanthen]-2-amine (363 mg, 829 μmol), pyrimidin-5-ylboronic acid (257 mg, 2073 μmol), tetrakis(triphenylphosphine)palladium(0) (95.8 mg, 82.9 μmol), THF (8292 μl, 829 μmol), and potassium carbonate (3455 μl of a 1.2 M aqueous solution, 4146 μmol). The vial was covered with a blanket of Ar (g), capped, and heated in a Biotage Initiator microwave reactor for 1 h at 100° C. The organic layer was separated, dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on an 80-g Redi-Sep column, eluting with 0-50% EtOAc/Hexane to give rac-N-tert-butyl-2′-chloro-7′-(5-pyrimidinyl)spiro[1,3-thiazole-4,9′-xanthen]-2-amine as an orange-yellow solid. MS m/z=437.2 [M+H]+. Calc'd for C23H22ClN4OSS: 437.1.

reactant | racemic-N-tert-butyl-2′-bromo-7′-chloro-spiro[1,3-thiazole-4,9′-xanthen]-2-amine | 829 μmol, 363 mg | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)Br)Cl)N1 | C19H18BrClN2OS
reactant | pyrimidin-5-ylboronic acid | 2073 μmol, 257 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | THF | 829 μmol, 8292 μl | C1CCOC1 | C4H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 82.9 μmol, 95.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | rac-N-tert-butyl-2′-chloro-7′-(5-pyrimidinyl)spiro[1,3-thiazole-4,9′-xanthen]-2-amine | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)Cl)C=2C=NC=NC2)N1 | C23H21ClN4OS
